US06660753B2
3-(5-Fluoro-2-pyridyl)-5-(3-(1-benzyl-1,2,5,6-tetrahydropyridin-3-yl)-5-fluorophenyl)-1,2,4-oxadiazole
In a screw cap vial equipped with stir bar added 3-(5-Fluoro-2-pyridyl)-5-(3-fluoro-5-(3-pyridyl)phenyl)-1,2,4-oxadiazole (100 mg, 0.30 mmol), acetonitrile (2 ml) and benzyl bromide (0.05 ml, 0.39 mmol). Stirred the resulting mixture at 90° C. for 4h. Cooled the mixture to room temperature, concentrated in-vacuo and triturated the residue with 30% ethyl acetate in hexanes to isolate the quarternary salt. The isolated solid was dissolved in methanol (2 ml) and treated with sodium borohydride (22.6 mg, 0.60 mmol) at 0° C. The bright yellow reaction mixture was stirred at room temperature for 2 h. The reaction mixture was concentrated in-vacuo and the residue was dissolved in dichloromethane (20 ml). The organic phase was sequentially washed with water (20 ml) and brine (20 ml), dried (sodium sulfate), filtered and concentrated in-vacuo. The crude residue was purified on silica gel using 30% ethyl acetate in hexanes to isolate the title compound (10.1 mg, 8%) as yellow oil. 1H-NMR (CDCl3), δ (ppm): 8.69 (d, 1H), 8.26 (dd, 1H), 8.02 (s, 1H), 7.80 (dd, 1H), 7.60 (dt, 1H), 7.32 (m, 6H), 6.34 (m, 1H), 3.73 (s, 2H), 3.40 (bs, 2H), 2.63 (t, 2H), 2.39 (m, 2H).

reactant | 3-(5-Fluoro-2-pyridyl)-5-(3-fluoro-5-(3-pyridyl)phenyl)-1,2,4-oxadiazole | 0.30 mmol, 100 mg | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)C=1C=NC=CC1)F | C18H10F2N4O
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
reactant | benzyl bromide | 0.39 mmol, 0.05 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium borohydride | 0.60 mmol, 22.6 mg | [BH4-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 3-(5-Fluoro-2-pyridyl)-5-(3-(1-benzyl-1,2,5,6-tetrahydropyridin-3-yl)-5-fluorophenyl)-1,2,4-oxadiazole | 10.1 mg, 8% | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)F)C=1CN(CCC1)CC1=CC=CC=C1 | C25H20F2N4O
